US08912221B2
Step E: {(R)-1-[2-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethyl}-carbamic acid tert-butyl ester
A mixture of [(R)-1-(4-bromo-2-fluoro-phenyl)-ethyl]carbamic acid tert-butyl ester (4.7 g, 13.1 mmol), bis(pinacolato)diboron (5.01 g, 19.7 mmol), [1,1′-bis(diphenylphosphino) ferrocene]palladium(II) chloride 1:1 complex with DCM (107 mg, 131 μmol) and potassium acetate (3.87 g, 39.4 mmol) in DMSO (30 ml) was stirred at 90° C. for 50 h. The reaction mixture was allowed to cool to room temperature, water was added and the mixture was extracted three times with EtOAc. The combined organic extracts were washed with water and brine, dried with Na2SO4 and concentrated. The remaining residue was purified by chromatography (silica gel; heptane/EtOAc 70:30-60:40) to obtain the title compound as light yellow solid (4.6 g, 95%). MS: 366.3 [M+H]+.

reactant | [(R)-1-(4-bromo-2-fluoro-phenyl)-ethyl]carbamic acid tert-butyl ester | 13.1 mmol, 4.7 g | C(C)(C)(C)OC(N[C@H](C)C1=C(C=C(C=C1)Br)F)=O | C13H17BrFNO2
reactant | bis(pinacolato)diboron | 19.7 mmol, 5.01 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DCM | 131 μmol, 107 mg | C(Cl)Cl | CH2Cl2
reactant | potassium acetate | 39.4 mmol, 3.87 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
catalyst | [1,1′-bis(diphenylphosphino) ferrocene]palladium(II) chloride | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | O | H2O
product | {(R)-1-[2-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 4.6 g, 95% | C(C)(C)(C)OC(N[C@H](C)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)=O | C19H29BFNO4
